.SUBCKT modified_pickett plus minus
.PARAM:
+phio=0.95 Lm=0.0998 w1=0.1261 foff=3.5e–6
+ioff=115e–6 aoff=1.2 ion=8.9e–6 aon=1.8 Th_on=0.0074
+koff1=1 koff2=0.5 kon1=1 kon2=1 b=600e–6 wc=95e–3
+fon=2000e–6

G1 plus internal value={sgn(V(xp))*(1/V(dw))^2*0.0617*(V(phiI)*exp(–V(B)*V(sr))–(V(phiI)+abs(V(xp)))*exp(–V(B)*V(sr2)))}
Rs internal minus 215
Esr sr 0 value={sqrt(V(phiI))}
Esr2 sr2 0 value={sqrt(V(phiI)+abs(V(xp)))}
Eg xp 0 value={V(plus)–V(internal)}
Elamda Lmda 0 value={Lm/V(w)}
Ew2 w2 0 value={w1+V(w)–(0.9183/(2.85+4*V(Lmda)–2*abs(V(xp))))}
EDw dw 0 value={V(w2)–w1}
EB B 0 value={10.246*V(dw)}
ER R 0 value={(V(w2)/w1)*(V(w)–w1)/(V(w)–V(w2))}
EphiI phiI 0 value={phio–abs(V(xp))*((w1+V(w2))/(2*V(w)))–1.15*V(Lmda)*V(w)*log(V(R))/V(dw)}
********** Edited Terms 1 *************
C1 w1 0 1e–9 IC=1.2
R w1 0 1e8MEG
********** Added Terms 1 *************
Ew w 0 value= {MIN (MAX (V(w1), 1), 2)}
Rw w 0 1T
************************************
Ec c 0 value={abs(V(internal)–V(minus))/215}
Emon1 mon1 0 value={((V(w)–aoff)/wc)–(V(c)/b)}
Emon2 mon2 0 value={(aon–V(w))/wc–(V(c)/b)}
************* Edited Terms 2 **********
Goff 0 w1 value={foff*sinh(stp(V(xp))*V(c)/ioff)*exp(–koff1*exp(koff2*V(mon1))–V(w)/wc)}
Gon w1 0 value={fon*sinh(stp(–V(xp))*V(c)/ion)*(exp(–kon1*exp(kon2*V(mon2))–V(w)/wc))}
***********************************
.ENDS
************************************