* PSpice Model Editor - Version 16.6.0
*$
.SUBCKT so plus_i minus_i plus_o minus_o
Ra plus_i minus_i 1e8MEG
Ga plus_o minus_o value={v(plus_i, minus_i)/2}
.ENDS
*$
