* source IMPLY_GATE
V_Vin1         SIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\IMLPY\Driver\v1.txt" 
R_R_test1         0 VIN1  50K TC=0,0 
X_S2    SIN1 0 SIN1 VIN1 SCHEMATIC1_S2 

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 Sbreak
RS_S2         1 2 1G
.ends SCHEMATIC1_S2
