* source INITIAL_INVESTIGATIONS
V_V5         N01605 0  
+PULSE -0.9 0.9 1s 100n 100n 20s 41s
I_I1         N02425 0 DC 0Adc AC 0Aac
+PULSE 0.5m -0.5m 1 100n 100n 20 40
X_U1         N01605 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_U2         N02425 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
