* PSpice Model Editor - Version 16.6.0
*$
* PSpice Model Editor - Version 16.6.0
.SUBCKT VTEAM plus minus 

.func mem_rel(x)={10000+((25000-10000)*x)}
.func gfon(x)= {if(   (-0.8 > x)  , -MIN(PWR((x+0.8), 1), 0.99e10)   , 0  )}
.func gfoff(x)= {if(   (0.8 < x)  ,  MIN(PWR((x-0.8), 1), 0.99e10)   , 0  )}

Cstate state 0 330mF IC={0.5}
Gon 0 state VALUE={gfon(V(plus, minus))}
Goff 0 state VALUE={gfoff(V(plus, minus))}
Vxon p1 0 {0}
Vxoff p2 0 {1}
Dxonlim p1 state Dbreak
Dxofflim state p2 Dbreak


Gmemrist plus minus VALUE={V(plus, minus)/mem_rel(V(state,0))}
.ENDS

*$
