* source INITIAL_INVESTIGATIONS
V_V1         N05252 0  
+SIN 0 2 0.1 0 0 0
V_V2         N05231 0  
+SIN 0 2 0.1 0 0 0
X_U1         N05252 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_U2         N05231 0 TEAM PARAMS:  INITIAL_X=0.5 X_OFF=1 X_ON=0 I_ON=-50E-6
+  I_OFF=50E-6 K_ON=-0.1 K_OFF=0.1 ALPHA_ON=2 ALPHA_OFF=2 R_OFF=10000 R_ON=100
+  LAMDA=4.60517 OMEGA=100E-3 A_ON=0.2 A_OFF=0.8
X_U4         N07052 0 TEAM PARAMS:  INITIAL_X=0.5 X_OFF=1 X_ON=0 I_ON=-50E-6
+  I_OFF=50E-6 K_ON=-0.1 K_OFF=0.1 ALPHA_ON=2 ALPHA_OFF=2 R_OFF=10000 R_ON=100
+  LAMDA=4.60517 OMEGA=100E-3 A_ON=0.2 A_OFF=0.8
X_U3         N09481 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
I_I1         N07052 0 DC 0Adc AC 0Aac
+SIN 0 200u 0.1 0 0 0
I_I2         N09481 0 DC 0Adc AC 0Aac
+SIN 0 120u 0.0001 0 0 0
R_R1         0 N09481  1000k TC=0,0 
