* PSpice Model Editor - Version 16.6.0
*$
.SUBCKT TEAM plus minus 
+PARAMS: initial_x = 0.5
+x_off = 1
+x_on = 0
+i_on = -50e-6
+i_off = 50e-6
+k_on = -0.1
+k_off = 0.1
+alpha_on = 2
+alpha_off = 2
+r_off = 10000
+r_on = 100
+lamda = 4.60517
+omega = 100e-3
+a_on = 0.2
+a_off = 0.8
****** Memristance dependnace on state variable ********
*Linear*
.func mem_rel(x)={r_on+((r_off-r_on)*(x-x_on))/(x_off-x_on)}
********* Functions **********
.func gfon(x)= {if( (0>x), 0.3*x*x, 0)}
.func gfoff(x)= {if((0<x),-(0.1*exp(x)-0.1), 0)}
*State Equation*
Cstate state 0 300mF IC={initial_x}
Gon 0 state VALUE={(gfon(I(Visense)))}
Goff 0 state VALUE={(gfoff(I(Visense)))}
Vxoff p2 0 {5}
Vxon p1 0 {0}
Dxonlim p1 state Dbreak
Dxofflim state p2 Dbreak
****** Memristor ******
Visense n0 minus {0}
Rseries n0 n1 20
Ememrist plus n1 VALUE={I(Visense)*mem_rel(V(state,0))}
.ENDS
*$
