* source MEMRST_INTRO
X_U1         N00134 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-1
+  V_OFF=1 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
V_V2         N00134 0  
+SIN 0 2 0.05 0 0 0
X_U2         N00820 0 TEAM PARAMS:  INITIAL_X=0.5 X_OFF=1 X_ON=0 I_ON=-50E-6
+  I_OFF=50E-6 K_ON=-0.1 K_OFF=0.1 ALPHA_ON=2 ALPHA_OFF=2 R_OFF=10000 R_ON=100
+  LAMDA=4.60517 OMEGA=100E-3 A_ON=0.2 A_OFF=0.8
I_I1         N00820 0 DC 0Adc AC 0Aac
+SIN 0 1.55 1 0 0 0
R_R1         N048513 0  1k TC=0,0 
X_S1    N04833 0 N04833 N048513 SCHEMATIC1_S1 
V_V6         N04833 0  
+PULSE 6 12 1m 10p 10p 1m 2.01m

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 Sbreak
RS_S1         1 2 1G
.ends SCHEMATIC1_S1
