* source GATES
V_Vin1         V_IN 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\Intro\stability\v1.txt" 
I_I_in         N62648 0   PWL    FILE "C:\Users\Vijay\i1.txt" 
X_M1         V_IN 0 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
R_R1         N62648 0  1k TC=0,0 
