* source IMPLY_GATE
V_Vin1         SIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MAGIC\NOR\v1.txt" 
X_S2    SIN1 0 SIN1 VIN1 SCHEMATIC1_S2 
V_Vin2         SIN2 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MAGIC\NOR\v2.txt" 
X_S3    SIN2 0 SIN2 VIN2 SCHEMATIC1_S3 
X_S4    SIN3 0 SIN3 VIN3 SCHEMATIC1_S4 
V_Vin3         SIN3 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MAGIC\NOR\v3.txt" 
V_Vin4         SIN4 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MAGIC\NOR\v4.txt" 
X_S5    SIN4 0 SIN4 VIN4 SCHEMATIC1_S5 
X_a         VIN4 VIN1 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_b         VIN4 VIN2 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
X_c         VIN4 VIN3 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 Sbreak
RS_S2         1 2 1G
.ends SCHEMATIC1_S2

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 Sbreak
RS_S3         1 2 1G
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S4 1 2 3 4  
S_S4         3 4 1 2 Sbreak
RS_S4         1 2 1G
.ends SCHEMATIC1_S4

.subckt SCHEMATIC1_S5 1 2 3 4  
S_S5         3 4 1 2 Sbreak
RS_S5         1 2 1G
.ends SCHEMATIC1_S5
