* source MRL_NOVEL
V_Vdd         VDD 0 5Vdc
V_Vin1         VIN1 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\full_adder _cl2\v1.txt" 
V_Vin2         VIN2 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\full_adder _cl2\v2.txt" 
M_T4         N02912 VIN2 VDD VDD Mbreakp           
M_T5         XOR N01303 VDD VDD Mbreakp           
M_T6         XOR N01303 0 0 Mbreakn           
M_M3         N01303 VIN1 N03069 0 Mbreakn           
M_M4         N01303 VIN1 N02912 VDD Mbreakp           
M_M5         N01303 VIN2 N03069 0 Mbreakn           
X_M32         VIN1 N03069 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M33         VIN2 N03069 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
V_Vin3         VIN3 0   PWL   
+ FILE "C:\Users\Vijay\Google Drive\PSpice\FYP\MRL\full_adder _cl2\v3.txt" 
M_M36         N33382 XOR N33462 0 MbreakN           
M_T9         SUM N33382 0 0 Mbreakn           
M_M35         N33382 XOR N33434 VDD MbreakP           
M_T7         N33434 VIN3 VDD VDD Mbreakp           
M_M34         N33382 VIN3 N33462 0 Mbreakn           
M_T8         SUM N33382 VDD VDD Mbreakp           
M_T22         COUT N43139 VDD VDD Mbreakp           
M_T23         COUT N43139 0 0 Mbreakn           
X_M38         VIN3 N33462 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0
+  V_ON=-0.8 V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1
+  ALPHA_OFF=0.1 R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05
+  A_OFF=0.95
X_M37         XOR N33462 VTEAM PARAMS:  INITIAL_X=0.75 X_OFF=1 X_ON=0 V_ON=-0.8
+  V_OFF=0.8 K_ON=-0.036363636 K_OFF=0.036363636 ALPHA_ON=0.1 ALPHA_OFF=0.1
+  R_OFF=50000 R_ON=500 LAMDA=4.60517 OMEGA=25E-3 A_ON=0.05 A_OFF=0.95
M_T24         N43139 N33462 0 0 Mbreakn           
M_T25         N43139 N03069 0 0 Mbreakn           
M_T26         N61439 N03069 VDD VDD Mbreakp           
M_M39         N43139 N33462 N61439 VDD MbreakP           
